US07425568B2
2-(4-Nitrophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) staring from 6-hydroxy-2-(4-nitrophenyl)-chroman-4-one. 1H NMR (300 MHz, d6-DMSO) δ: 8.86 (s, 1H), 8.26 (d, 2H, J 6.9 Hz), 7.74 (d, 2H, J 6.9 Hz), 6.89 (d, 1H J 2.8 Hz), 6.65 (d, 1H, J 8.6 Hz), 6.56 (dd, 1H, J 8.6, 2.8 Hz), 5.46 (d, 1H, J 6.9 Hz), 5.32 (d, 1H, J 10.5 Hz), 4.86-4.94 (m, 1H), 2.31-2.38 (m, 1H), 1.78-1.89 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-2-(4-nitrophenyl)-chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H11NO5
product | 2-(4-Nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
